### PR TITLE
Unconditional call to `update_time_stamp`

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This perfoms a spec update in alignment with the following C commit

https://github.com/seL4/seL4/commit/9663e1e6f5552b8b6eb3cb929e68465b26b79643

and updates the proofs

### CODE REVIEW

**Review by mktnk3 — APPROVED** [review]

File: proof/invariant-abstract/CSpace_AI.thy [hunk 1]
```diff
@@ -209,19 +209,14 @@ lemma preemption_point_inv:
...
   apply (rule alternative_valid; (solves wpsimp)?)
   apply (rule validE_valid)
-  apply (rule hoare_seq_ext_skipE, solves wpsimp)+
-  apply (rename_tac irq_opt)
-  apply (case_tac irq_opt; clarsimp?, (solves wpsimp)?)
-  apply (rule valid_validE)
-  apply (rule hoare_seq_ext_skip
-         , solves \<open>wpsimp wp: update_time_stamp_wp simp: get_sc_refill_sufficient_def get_sc_active_def\<close>)+
+  apply (rule hoare_seq_ext_skipE, solves \<open>wpsimp wp: update_time_stamp_wp\<close>)+
   apply wpsimp
```
Comment (corlewis) [inline proof/invariant-abstract/CSpace_AI.thy:220]: It's definitely not necessary, but looking at the rules now used in this proof I reckon it could all be done in one `wpsimp` now.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 2]
```diff
@@ -24753,6 +24738,7 @@ lemma preemption_path_ct_ready_if_schedulable:
    apply (rename_tac tcb, case_tac "tcb_state tcb"; clarsimp)
   apply (rule hoare_if)
    apply (wpsimp wp: check_budget_ct_ready_if_schedulable)
+
```
Comment (corlewis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:24741]: Is this newline intentional?

**Review by corlewis — APPROVED** [review]

File: proof/invariant-abstract/CSpace_AI.thy (hunk 1 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/CSpace_AI.thy:220]: I gave it a go, but I couldn't get it working nicely

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:24741]: Nope. I fix it in the next PR though, so I'd prefer to merge this one immediately followed by the next, if no one minds
